US06130348
To a solution of 72.03 g L-serine-methylester hydrochloride in 400 ml of water were added at 0° C. 49.5 g of methyl chloroformate. The pH was kept at 6-7 by adding a 40% aqueous solution of sodium hydroxide. After 2 1/2 h at 0° C. the mixture was extracted with 6 portions of ethyl acetate, the combined extracts were dried and evaporated to give 75.39 g (92%) of pure methyl 3-hydroxy-(S)-2-methoxycarbonylamino-propionate. IR (neat): 3380 m (NH, OH), 1720s, br. (C=O), 1535 s (amnide II). MS (El): 178/20 (M+H+).

reactant | L-serine-methylester hydrochloride | 72.03 g | Cl.COC([C@@H](N)CO)=O
reactant | methyl chloroformate | 49.5 g | ClC(=O)OC | C2H3ClO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 400 ml | O | H2O
product | methyl 3-hydroxy-(S)-2-methoxycarbonylamino-propionate | 75.39 g, 92% | OC[C@@H](C(=O)OC)NC(=O)OC | C6H11NO5
